US05843942
40% Aqueous sodium hydroxide (100 mL) was added to a solution of methyl 4-[N-(2-benzyloxybenzyl)-N-ethylamino]benzoate (44.0 g) in a mixture of methanol (200 mL) and tetrahydrofuran (100 mL) and the resulting mixture was heated under reflux for 6 hours. The reaction mixture was reduced to half its volume on a rotary evaporator and water (300 mL) was added. The mixture was acidified with acetic acid, the precipitate was filtered, washed three times with diethyl ether (50 mL each time) and dried in a vacuum oven at 60° C. to give 4-[N-(2-benzyloxybenzyl)-N-ethylamino]benzoic acid, melting point 165° C., yield 38.0 g (89%).

reactant | sodium hydroxide | 100 mL | [OH-].[Na+]
reactant | methyl 4-[N-(2-benzyloxybenzyl)-N-ethylamino]benzoate | 44.0 g | C(C1=CC=CC=C1)OC1=C(CN(CC)C2=CC=C(C(=O)OC)C=C2)C=CC=C1 | C24H25NO3
solvent | methanol | 200 mL | CO | CH4O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 4-[N-(2-benzyloxybenzyl)-N-ethylamino]benzoic acid | C(C1=CC=CC=C1)OC1=C(CN(CC)C2=CC=C(C(=O)O)C=C2)C=CC=C1 | C23H23NO3
